** sch_path: /foss/designs/ENGN1600-CAD5/SHIFT.sch
.subckt SHIFT Sh1 Sh1b A0 A1 A2 A3 A4 A5 A6 A7 A8 A9 A10 A11 A12 A13 A14 A15 OUT0 OUT1 OUT2 OUT3 OUT4 OUT5 OUT6 OUT7 OUT8 OUT9
+ OUT10 OUT11 OUT12 OUT13 OUT14 OUT15 Sh2 Sh2b Sh4 Sh4b Sh8 Sh8b
*.PININFO Sh1:I Sh1b:I A0:I A1:I A2:I A3:I A4:I A5:I A6:I A7:I A8:I A9:I A10:I A11:I A12:I A13:I A14:I A15:I OUT0:O OUT1:O OUT2:O
*+ OUT3:O OUT4:O OUT5:O OUT6:O OUT7:O OUT8:O OUT9:O OUT10:O OUT11:O OUT12:O OUT13:O OUT14:O OUT15:O Sh2:I Sh2b:I Sh4:I Sh4b:I Sh8:I Sh8b:I
x1 Sh1b Sh1 A0 GND net1 1BIT
x2 Sh1b Sh1 A1 A0 net2 1BIT
x3 Sh1b Sh1 A2 A1 net3 1BIT
x4 Sh1b Sh1 A3 A2 net4 1BIT
x5 Sh1b Sh1 A4 A3 net5 1BIT
x6 Sh1b Sh1 A5 A4 net6 1BIT
x7 Sh1b Sh1 A6 A5 net7 1BIT
x8 Sh1b Sh1 A7 A6 net8 1BIT
x9 Sh1b Sh1 A8 A7 net9 1BIT
x10 Sh1b Sh1 A9 A8 net10 1BIT
x11 Sh1b Sh1 A10 A9 net11 1BIT
x12 Sh1b Sh1 A11 A10 net12 1BIT
x13 Sh1b Sh1 A12 A11 net13 1BIT
x14 Sh1b Sh1 A13 A12 net14 1BIT
x15 Sh1b Sh1 A14 A13 net15 1BIT
x16 Sh1b Sh1 A15 A14 net16 1BIT
x17 Sh2b Sh2 net1 GND net17 net18 GND net2 2BIT
x18 Sh2b Sh2 net3 net1 net19 net20 net2 net4 2BIT
x19 Sh2b Sh2 net5 net3 net21 net22 net4 net6 2BIT
x20 Sh2b Sh2 net7 net5 net23 net24 net6 net8 2BIT
x21 Sh2b Sh2 net9 net7 net25 net26 net8 net10 2BIT
x22 Sh2b Sh2 net11 net9 net27 net28 net10 net12 2BIT
x23 Sh2b Sh2 net13 net11 net29 net30 net12 net14 2BIT
x24 Sh2b Sh2 net15 net13 net31 net32 net14 net16 2BIT
x25 Sh4b Sh4 GND net17 net33 net35 net34 net36 GND net18 GND net19 GND net20 4BIT
x26 Sh4b Sh4 net17 net21 net37 net38 net39 net40 net18 net22 net19 net23 net20 net24 4BIT
x27 Sh4b Sh4 net21 net25 net41 net43 net42 net44 net22 net26 net23 net27 net24 net28 4BIT
x29 Sh4b Sh4 net25 net29 net45 net46 net47 net48 net26 net30 net27 net31 net28 net32 4BIT
x28 Sh8b Sh8 net33 GND OUT0 OUT1 OUT2 OUT3 net35 GND GND net34 GND net36 net37 GND OUT4 OUT5 OUT6 OUT7 GND net38 GND net39 GND
+ net40 8BIT
x30 Sh8b Sh8 net41 net33 OUT8 OUT9 OUT10 OUT11 net43 net35 net34 net42 net36 net44 net45 net37 OUT12 OUT13 OUT14 OUT15 net38 net46
+ net39 net47 net40 net48 8BIT
.ends

* expanding   symbol:  1BIT.sym # of pins=5
** sym_path: /foss/designs/ENGN1600-CAD5/1BIT.sym
** sch_path: /foss/designs/ENGN1600-CAD5/1BIT.sch
.subckt 1BIT Shb Sh Ax IN0 OUT
*.PININFO Sh:I Shb:I OUT:O Ax:I IN0:I
M2 OUT Sh IN0 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M1 OUT Shb Ax GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
.ends


* expanding   symbol:  ENGN1600-CAD5/2BIT.sym # of pins=8
** sym_path: /foss/designs/ENGN1600-CAD5/2BIT.sym
** sch_path: /foss/designs/ENGN1600-CAD5/2BIT.sch
.subckt 2BIT Shb Sh Ax IN0 OUT0 OUT1 IN1 Ax-1
*.PININFO Sh:I Shb:I OUT0:O Ax:I IN0:I Ax-1:I IN1:I OUT1:O
M2 OUT0 Sh IN0 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M1 OUT0 Shb Ax GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M3 OUT1 Sh IN1 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M4 OUT1 Shb Ax-1 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
.ends


* expanding   symbol:  ENGN1600-CAD5/4BIT.sym # of pins=14
** sym_path: /foss/designs/ENGN1600-CAD5/4BIT.sym
** sch_path: /foss/designs/ENGN1600-CAD5/4BIT.sch
.subckt 4BIT Shb Sh IN0 Ax OUT0 OUT1 OUT2 OUT3 IN1 Ax-1 IN2 Ax-2 IN3 Ax-3
*.PININFO Sh:I Shb:I OUT0:O Ax:I IN0:I Ax-1:I IN1:I OUT1:O Ax-2:I IN2:I Ax-3:I IN3:I OUT2:O OUT3:O
M2 OUT0 Sh IN0 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M1 OUT0 Shb Ax GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M3 OUT1 Sh IN1 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M4 OUT1 Shb Ax-1 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M5 OUT2 Sh IN2 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M6 OUT2 Shb Ax-2 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M7 OUT3 Sh IN3 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M8 OUT3 Shb Ax-3 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
.ends


* expanding   symbol:  ENGN1600-CAD5/8BIT.sym # of pins=26
** sym_path: /foss/designs/ENGN1600-CAD5/8BIT.sym
** sch_path: /foss/designs/ENGN1600-CAD5/8BIT.sch
.subckt 8BIT Shb Sh Ax IN0 OUT0 OUT1 OUT2 OUT3 Ax-1 IN1 IN2 Ax-2 IN3 Ax-3 Ax-4 IN4 OUT4 OUT5 OUT6 OUT7 IN5 Ax-5 IN6 Ax-6 IN7 Ax-7
*.PININFO Sh:I Shb:I OUT0:O Ax:I IN0:I Ax-1:I IN1:I OUT1:O Ax-2:I IN2:I Ax-3:I IN3:I OUT2:O OUT3:O OUT4:O Ax-4:I IN4:I Ax-5:I
*+ IN5:I OUT5:O Ax-6:I IN6:I Ax-7:I IN7:I OUT6:O OUT7:O
M2 OUT0 Sh IN0 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M1 OUT0 Shb Ax GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M3 OUT1 Sh IN1 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M4 OUT1 Shb Ax-1 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M5 OUT2 Sh IN2 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M6 OUT2 Shb Ax-2 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M7 OUT3 Sh IN3 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M8 OUT3 Shb Ax-3 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M9 OUT4 Sh IN4 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M10 OUT4 Shb Ax-4 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M11 OUT5 Sh IN5 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M12 OUT5 Shb Ax-5 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M13 OUT6 Sh IN6 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M14 OUT6 Shb Ax-6 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M15 OUT7 Sh IN7 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M16 OUT7 Shb Ax-7 GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
.ends

.GLOBAL GND
